US07652049B2
To solution of [3,5-bis(trifluoromethyl)phenyl](hydroxy)acetic acid (510 mg, 1.77 mmol) in benzene (10 mL) was added MeOH (1.5 mL) followed by (trimethylsilyl)diazomethane (1.06 mL of a 2M solution in hexanes, 2.12 mmol). After 10 minutes, the reaction was quenched with several drops of HOAc (add until yellow color disappears). The reaction was concentrated and purified by flash chromatography with 10 to 80% EtOAc/hexanes to afford methyl [3,5-bis(trifluoromethyl)phenyl](hydroxy)acetate. 1H NMR (CDCl3, 500 MHz) δ 7.94 (s, 2H), 7.85 (s, 1H), 5.32 (s, 1H), 3.83 (s, 3H), 3.68 (bs, 1H).

reactant | [3,5-bis(trifluoromethyl)phenyl](hydroxy)acetic acid | 1.77 mmol, 510 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)O)O)(F)F | C10H6F6O3
reactant | MeOH | 1.5 mL | CO | CH4O
reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | methyl [3,5-bis(trifluoromethyl)phenyl](hydroxy)acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)OC)O)(F)F | C11H8F6O3
